US08729102B2
B) tert-butyl [(1S)-2-(4-formylphenoxy)-1-methylethyl]carbamate
To a solution of methyl 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)benzoate (816 mg) in THF (10 mL) was added a toluene solution (1.0 M, 5.28 mL) of diisobutylaluminum hydride at −78° C., and the mixture was stirred at room temperature for 30 min under an argon atmosphere. Sodium sulfate decahydrate (22.7 g) was added thereto at −78° C., and the mixture was stirred at room temperature for 3 hr. The reaction mixture was filtered through celite, and the solvent of the filtrate was evaporated under reduced pressure to give a mixture of tert-butyl {(1S)-2-[4-(hydroxymethyl)phenoxy]-1-methylethyl}carbamate and methyl 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)benzoate as a pale-yellow oil (813 mg). A mixture of the aforementioned mixture (813 mg) of tert-butyl {(1S)-2-[4-(hydroxymethyl)phenoxy]-1-methylethyl}carbamate and methyl 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)benzoate, sulfur trioxide pyridine complex (657 mg), DMSO (7 mL) and triethylamine (3 mL) was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a colorless oil (504 mg).

reactant | methyl 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)benzoate | 816 mg | C(C)(C)(C)OC(=O)N[C@H](COC1=CC=C(C(=O)OC)C=C1)C | C16H23NO5
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium sulfate decahydrate | 22.7 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl {(1S)-2-[4-(hydroxymethyl)phenoxy]-1-methylethyl}carbamate | OCC1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C15H23NO4
reactant | methyl 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)benzoate | 813 mg | C(C)(C)(C)OC(=O)N[C@H](COC1=CC=C(C(=O)OC)C=C1)C | C16H23NO5
reactant | tert-butyl {(1S)-2-[4-(hydroxymethyl)phenoxy]-1-methylethyl}carbamate | 813 mg | OCC1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C15H23NO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
solvent | toluene | 1.0 M, 5.28 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [(1S)-2-(4-formylphenoxy)-1-methylethyl]carbamate | 504 mg | C(=O)C1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C15H21NO4
